US07563905B2
The Synthesis of 3-(2-furyl)-4(4-methoxybenzyl)-5-{[4-(trifluoromethyl)benzyl]thio}-4H-1,2,4-triazole
This compound was synthesized using the same methodology as described in Example 1 above, using 2-furancarboxylic acid hydrazide, 4-methoxybenzyl isothiocyanate and 4-trifluoromethylbenzyl bromide as the starting materials. (M+H)+−446.

reactant | 2-furancarboxylic acid hydrazide | O1C(=CC=C1)C(=O)NN | C5H6N2O2
reactant | 4-methoxybenzyl isothiocyanate | COC1=CC=C(CN=C=S)C=C1 | C9H9NOS
reactant | 4-trifluoromethylbenzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 3-(2-furyl)-4(4-methoxybenzyl)-5-{[4-(trifluoromethyl)benzyl]thio}-4H-1,2,4-triazole | O1C(=CC=C1)C1=NN=C(N1CC1=CC=C(C=C1)OC)SCC1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O2S
